US07863314B2
B. 2-(3-Methoxybenzoyl)-3-phenylamino-acrylonitrile
A solution of 3-methoxybenzoylacetonitrile (1.20 g, 68.5 mmol, 1.0 eq) and diphenylformamidine (1.34 g, 68.5 mmol, 1.0 eq) in 25 mL of toluene was stirred at room temperature for 2h then heated to 100° C. overnight. The solution was cooled and diluted with hexanes. The resulting solid was filtered and dried to provide the desired product. HPLC (4 minute 10-90 gradient) tR 3.05 min; MS m/z 279.2 [M+H]+.

reactant | 3-methoxybenzoylacetonitrile | 68.5 mmol, 1.20 g, 1.0 eq | COC=1C=C(C(=O)CC#N)C=CC1 | C10H9NO2
reactant | diphenylformamidine | 68.5 mmol, 1.34 g, 1.0 eq | C1(=CC=CC=C1)N(C=N)C1=CC=CC=C1 | C13H12N2
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(3-Methoxybenzoyl)-3-phenylamino-acrylonitrile | COC=1C=C(C(=O)C(C#N)=CNC2=CC=CC=C2)C=CC1 | C17H14N2O2
